US06537948B1
3.09 g of methyl 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-oxobutyrate and 1.23 g of methyl carbazate were suspended in 30 ml of toluene, and the mixture was heated under reflux for 5 hours. The solution was cooled to room temperature, then, the reaction solution was poured into ice water and dilute hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was washed with a mixed solvent of n-hexane:ethyl acetate (3:1) to obtain 2.94 g of 4-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-hydroxy-5-methylpyrazole.

reactant | methyl 2-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-oxobutyrate | 3.09 g | ClC1=C(OC(C(=O)OC)C(C)=O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H13ClF4N2O6
reactant | methyl carbazate | 1.23 g | C(NN)(=O)OC | C2H6N2O2
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-{2-chloro-4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]phenoxy}-3-hydroxy-5-methylpyrazole | 2.94 g | ClC1=C(OC=2C(=NNC2C)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C16H11ClF4N4O4
